US05942517
A mixture of 4-nitrobenzaldehyde (14.46 g, 0.957 mol), 2-cyanoethyl propionylacetate (17.0 g, 0.1005 mol), piperidine (0.41 g, 476 mL, 4.8 mmol), and acetic acid (0.288 g, 274 mL, 4.8 mmol) in 2-propanol (400 mL) was stirred at room temperature for 24 h. The white solid, 2-cyanoethyl 3-{(4-nitrophenyl)methylene}-4-oxopentanoate, formed was filtered, washed with 2-propanol (2×50 mL) and dried (28.34 g, 97%); m.p. 98-100° C.

reactant | 4-nitrobenzaldehyde | 0.957 mol, 14.46 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 2-cyanoethyl propionylacetate | 0.1005 mol, 17.0 g | C(CC)(=O)CC(=O)OCCC#N | C8H11NO3
reactant | piperidine | 4.8 mmol, 476 mL, 0.41 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 4.8 mmol, 274 mL, 0.288 g | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 400 mL | CC(C)O | C3H8O
product | 2-cyanoethyl 3-{(4-nitrophenyl)methylene}-4-oxopentanoate | [N+](=O)([O-])C1=CC=C(C=C1)C=C(CC(=O)OCCC#N)C(C)=O | C15H14N2O5
